US06864265B2
To a stirred solution of 8-amino-5,6,7,8-tetrahydroquinoline (24.3 g, 164 mmol) in dichloromethane (600 mL), at room temperature, was added 4-cyanobenzaldehyde (21.5 g, 164 mmol) and sodium triacetoxyborohydride (45 g, 210 mmol). After 42 hours, the reaction was quenched with 1N NaOH (250 mL). The phases were separated and the organic phase was washed once with brine (200 mL), dried (Na2SO4), and concentrated. Purification of the crude material by flash chromatography on silica gel (5% CH3OH/CH2Cl2) provided 30.9 g (72%) of N-(5,6,7,8-tetrahydro-8-quinolinyl)-4-cyanobenzylamine as a pale yellow solid.

reactant | 8-amino-5,6,7,8-tetrahydroquinoline | 164 mmol, 24.3 g | NC1CCCC=2C=CC=NC12 | C9H12N2
reactant | 4-cyanobenzaldehyde | 164 mmol, 21.5 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | sodium triacetoxyborohydride | 210 mmol, 45 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | N-(5,6,7,8-tetrahydro-8-quinolinyl)-4-cyanobenzylamine | 30.9 g, 72% | N1=CC=CC=2CCCC(C12)NCC1=CC=C(C=C1)C#N | C17H17N3
